US06486156B1
A solution of methyl 4-[(E)-3-(imidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate (1.37 g; 4 mmol) in methanol (20 ml) was treated at reflux for 4 hours with a solution of sodium hydroxide (0.32 g; 8 mmol) in water (24 ml). After evaporation to dryness the residue was acidified at pH 6 with 12N HCl. The resulting solid was triturated with water and subsequently with ether to give 4-[(E)-3-(imidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoic acid. Yield: 46%

reactant | methyl 4-[(E)-3-(imidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | 4 mmol, 1.37 g | N1C(=NC=C1)C/C=C/C1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C20H17FN2O2
reactant | sodium hydroxide | 8 mmol, 0.32 g | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 24 ml | O | H2O
product | 4-[(E)-3-(imidazol-2-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoic acid | Yield: 46% | N1C(=NC=C1)C/C=C/C1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F | C19H15FN2O2
